US07423061B2
2-[(Aminocarbonyl)amino]-N-[(3S)-azepan-3-yl]-5-(4-methoxyphenyl)thiophene-3-carboxamide;
hydrochloride. To a stirred solution of tert-butyl(3S)-3-({[2-[(aminocarbonyl)amino]-5-(4-methoxyphenyl)-3-thienyl]carbonyl}amino)azepane-1-carboxylate (0.9 g, 1.8 mmol) in 1,4-dioxane (10 mL) was added 4.0N HCl in 1,4-dioxane (10 mL, 40 mmol). A precipitate forms shortly and the reaction is stirred for an additional 4 h at room temperature. Due to the hygroscopic nature of the salt form, the solvent was removed under vacuum. The residue was dissolved in methanol and concentrated under vacuum (2×) to yield and off-white solid. Recrystallization from using 2-propanol gave 0.45 g (59%) of a white solid. 1H NMR (d6-DMSO, δ 10.9, s, 1H; δ 9.58, br s, 1H; δ 9.29, br s, 1H; δ 8.39, d, 1H; δ 7.82, s, 1H; δ 7.48, d, 2H; δ 6.96, d, 2H; δ 4.36, m, 1H; δ 3.77, s, 3H; δ 3.29, m, 1H; δ 3.20, m, 2H; δ 3.07, m, 1H; δ 1.98, m, 1H; δ 1.84, m, 4H; δ 1.59, m, 1H), LC/MS (APCI, ES, M+H=389).

reactant | hydrochloride | Cl | ClH
reactant | tert-butyl(3S)-3-({[2-[(aminocarbonyl)amino]-5-(4-methoxyphenyl)-3-thienyl]carbonyl}amino)azepane-1-carboxylate | 1.8 mmol, 0.9 g | NC(=O)NC=1SC(=CC1C(=O)N[C@@H]1CN(CCCC1)C(=O)OC(C)(C)C)C1=CC=C(C=C1)OC | C24H32N4O5S
reactant | HCl | 4.0N | Cl | ClH
solvent | 1,4-dioxane | 10 mL | O1CCOCC1 | C4H8O2
solvent | 1,4-dioxane | 40 mmol, 10 mL | O1CCOCC1 | C4H8O2
product | 2-[(Aminocarbonyl)amino]-N-[(3S)-azepan-3-yl]-5-(4-methoxyphenyl)thiophene-3-carboxamide | 0.45 g, 59% | NC(=O)NC=1SC(=CC1C(=O)N[C@@H]1CNCCCC1)C1=CC=C(C=C1)OC | C19H24N4O3S
